US07816371B2
g. 2-(6-Chloro-5-(2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)ethyl acetate
A reaction vial was charged with 2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)ethyl acetate (60.0 mg, 0.000214 mol), 2-(4-fluoro-3-(trifluoromethyl)phenyl)acetic acid (57.0 mg, 0.000256 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (203 mg, 0.000534 mol), N,N-diisopropylethylamine (0.093 mL, 0.00053 mol) and methylene chloride (3 mL, 0.05 mol) and the reaction stirred at 45° C. for 4 days. The reaction did not go to completion and a polar by product started increasing and so the reaction was stopped and solvent removed and the residue purified by flash chromatography to obtain the product as a light yellow solid. MS m/z=485.2 (M+H)

reactant | 2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)ethyl acetate | 0.000214 mol, 60.0 mg | C(C)(=O)OCCN1C(C2=CC=C(C(=C2C=C1)N)Cl)=O | C13H13ClN2O3
reactant | 2-(4-fluoro-3-(trifluoromethyl)phenyl)acetic acid | 0.000256 mol, 57.0 mg | FC1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C9H6F4O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.000534 mol, 203 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.00053 mol, 0.093 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 0.05 mol, 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-Chloro-5-(2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)ethyl acetate | C(C)(=O)OCCN1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)F)C(F)(F)F)=O)Cl)=O | C22H17ClF4N2O4
